US07595405B2
A 20 mL of vial was charged with 5-iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester (500 mg, 1.42 mmol), Pd(OAc)2(9.6 mg, 0.043 mmol), Mo(CO)6(413.5 mg, 1.566 mmol), ethylamine (2.0 M in MeOH, 1.068 mL, 2.136 mmol), DBU (426 uL, 2.848 mmol) and dry THF (10 mL). The vial was immediately capped with a Teflon septum under air and irradiated with microwaves to 100° C. for 15 minutes. After cooling, the reaction mixture was filtered through a short celite pad and the solvent, and excess DBU was removed under reduced pressure. The residue was purified by preparative HPLC to afford 210 mg of 5-ethylcarbamoyl-4′-methyl-biphenyl-3-carboxylic acid methyl ester (yield 50%). MS (M+H)=298.

reactant | 5-iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 1.42 mmol, 500 mg | COC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C15H13IO2
reactant | ethylamine | 2.136 mmol, 2.0 M, 1.068 mL | C(C)N | C2H7N
reactant | DBU | 2.848 mmol, 426 uL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.043 mmol, 9.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-ethylcarbamoyl-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 210 mg, yield 50% | COC(=O)C=1C=C(C=C(C1)C(NCC)=O)C1=CC=C(C=C1)C | C18H19NO3
